US06329389B1
7-Amino-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline
To a suspension of N,N-dimethyl-7-amino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide (450 mg) in THF (15 ml) was added Borane-THF complex (1M, 12 ml) under ice-cooling. The reaction mixture was heated under reflux for one hour. The reaction mixture was diluted with water (2 ml) under ice-cooling and concentrated. The residue was dissolved in methanol (12 ml), which was heated under reflux with 6N hydrochloric acid (4 ml) for 3 hours. After cooling, the reaction mixture was made basic and extracted with combined solution of THF and ethyl acetate. The organic layer was dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate to ethyl acetate/methanol=20:1) to obtain the entitled compound (380 mg).

reactant | N,N-dimethyl-7-amino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 450 mg | CN(C(=O)C1C(NC2=CC(=CC=C2C1)N)=O)C | C12H15N3O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 7-Amino-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline | 380 mg | NC1=CC=C2CC(CNC2=C1)CN(C)C | C12H19N3
